US04283341
A solution of 3-methyl-2-butenyl diazoacetate (41.3 m-mole, 6.36 g) in dioxane (20 ml) was added dropwise to a refluxing solution of cupric acetylacetonate (1.03 mmole, 0.27 g) in dioxane (400 ml) over a period of 7 hours under an argon atomosphere. After completion of the addition, the reaction mixture was heated under reflux for 1 hour. The crude reaction mixture was distilled to afford (±)-6,6-dimethyl-2-oxo-3-oxabicyclo[3.1.0]hexane (3.85 g, 75% yield); bp 110°, 16 mm Hg.

reactant | 3-methyl-2-butenyl diazoacetate | 6.36 g | [N+](=[N-])=CC(=O)OCC=C(C)C | C7H10N2O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
catalyst | cupric acetylacetonate | 1.03 mmole, 0.27 g | CC(=O)CC(=O)C.CC(=O)CC(=O)C.[Cu]
product | (±)-6,6-dimethyl-2-oxo-3-oxabicyclo[3.1.0]hexane | 3.85 g, 75% yield | CC1(C2COC(C12)=O)C | C7H10O2
